US07202363B2
A 20 mL scintillation vial was charged with 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxylic acid (0.070 g, 0.148 mmol), O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate (0.067 g, 0.177 mmol), 1-hydroxybenzotriazole hydrate (0.024 g, 0.177 mmol) and N,N-dimethylformamide (1.5 mL). To the suspension was added diisopropylethylamine (0.100 mL, 0.592 mmol) and 2-[(2-aminoethyl)(2-hydroxyethyl)amino]ethanol (0.024 mg, 0.162 mmol). The vial was flushed with nitrogen gas prior to capping, and the reaction mixture was shaken at room temperature for 12 hours. Upon completion of the reaction, methylene chloride (2 mL) and saturated sodium bicarbonate solution (2 mL) were added. The solution was filtered through an Empore™ cartridge, and the solvents removed under reduced pressure. The residues were taken up in a minimal amount of methanol and eluted (gravity) through a Si-carbonate™ cartridge (2 gram, 6 mL). The organic solution obtained was concentrated and the resulting residue triturated with water to give N7–2-[di(2-hydroxyethyl)amino]ethyl-4-amino-3-(3-methoxy-4-[(1-methyl-1H-2-indolyl)carbonyl]aminophenyl)thieno[3,2-c]pyridine-7-carboxamide as a precipitate. The title compound was collected and dried by vacuum filtration (15 mg, 14%). LCMS (Conditions a) Rt 2.62 min., 603.4 (MH+); 1H NMR (400 MHz, DMSO-d6) δ 9.51 (s, 1H), 8.51 (s, 1H), 8.39 (t, J=5.5 Hz, 1H), 7.99 (dd, J=7.8 Hz, 8.2 Hz, 1H), 7.70 (d, J=8.2 Hz, 1H), 7.59 (d, J=7.2 Hz, 1H), 7.58 (s, 1H), 7.35 (s, 1H), 7.32 (d, J=8.2 Hz, 1H), 7.20 (d, J=1.6 Hz, 1H), 7.15 (dd, J=7.8 Hz, 7.2 Hz, 1H), 7.07 (dd, J=8.2 Hz, 1.6 Hz, 1H), 4.41 (t, J=5.8 Hz, 1H), 4.04 (s, 3H), 3.91 (s, 3H), 3.44 (q, J=5.8 Hz, 4H), 3.34 (m, 2H), 2.68 (t, J=7.2 Hz, 2H), 2.61 (t, J=5.8 Hz, 4H).

reactant | 4-amino-3-(3-methoxy-4-{[(1-methyl-1H-indol-2-yl)carbonyl]amino}phenyl)thieno[3,2-c]pyridine-7-carboxylic acid | 0.148 mmol, 0.070 g | NC1=NC=C(C2=C1C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)C(=O)O | C25H20N4O4S
reactant | O-benzotriazol-1-yl-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.177 mmol, 0.067 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole hydrate | 0.177 mmol, 0.024 g | O.ON1N=NC2=C1C=CC=C2
reactant | diisopropylethylamine | 0.592 mmol, 0.100 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-[(2-aminoethyl)(2-hydroxyethyl)amino]ethanol | 0.162 mmol, 0.024 mg | NCCN(CCO)CCO | C6H16N2O2
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
product | N7–2-[di(2-hydroxyethyl)amino]ethyl-4-amino-3-(3-methoxy-4-[(1-methyl-1H-2-indolyl)carbonyl]aminophenyl)thieno[3,2-c]pyridine-7-carboxamide | OCCN(CCNC(=O)C=1C2=C(C(=NC1)N)C(=CS2)C2=CC(=C(C=C2)NC(=O)C=2N(C1=CC=CC=C1C2)C)OC)CCO | C31H34N6O5S
